US05470834
To a solution of (4S,5R)-4-methyl-5-phenyl-2-oxazolidinone (9.7 g) [prepared according to the procedures in Evans, D. A.; Mathre, D. J.; Scott, W. L. J. Org. Chem. 1985, 50, 1830-1835] in 100 mL of THF cooled to -78° C. with stirring, was added 35.6 mL of n-butyllithium (1.6M in hexane) until the orange-red color of the di-anion just persisted. The reaction mixture was then treated with 7.0 mL (7.7 g) of distilled 4-methylpentanoyl chloride, warmed to 0° C. and stirred for 30 min. Then 20 mL of 1M aqueous K2CO3 was added and the resultant two-phase mixture was stirred at 25° C. for 1 h. The organic solvents were evaporated in vacuo and the residue was extracted twice with CH2Cl2. The combined organic extract was washed with water and brine, then was dried over Na2SO4 and evaporated. The residue was subjected to flash chromatography on silica gel (hexane-EtOAc) to give 14.5 g (97% yield) of (4S,5R)-3-(1-oxo-4-methylpentyl)-4-methyl-5-phenyl-2-oxazolidinone as a solid. Characteristic analytical data are as follows: mp 76°-77° C. (hexane/EtOAc); 1H NMR (300 MHz, CDCl3) δ7.30-7.46 (m, 5H), 5.67 (d, J=8 Hz, 1H), 4.77 (p, J=7 Hz, 1H), 2.88-3.05 (m, 2H), 1.53-1.69 (m, 3H), 0.94 (d, J=7 Hz, 6H), 0.90 (d, J=7 Hz, 3H); [α]25D -33° (c=1.07, CH2Cl2).

reactant | (4S,5R)-4-methyl-5-phenyl-2-oxazolidinone | 9.7 g | C[C@@H]1NC(O[C@@H]1C1=CC=CC=C1)=O | C10H11NO2
reactant | n-butyllithium | 1.6M, 35.6 mL | C(CCC)[Li]
reactant | 4-methylpentanoyl chloride | 7.0 mL, 7.7 g | CC(CCC(=O)Cl)C | C6H11ClO
reactant | K2CO3 | 1M, 20 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | (4S,5R)-3-(1-oxo-4-methylpentyl)-4-methyl-5-phenyl-2-oxazolidinone | 14.5 g, 97% yield | O=C(CCC(C)C)N1C(O[C@@H]([C@@H]1C)C1=CC=CC=C1)=O | C16H21NO3
